US03997669
The starting material is prepared as follows: To the mixture of 104 g ethyl 4-nitrophenyl-acetate, 350 ml dimethylformamide and 350 ml toluene, 19 g 50 percent sodium hydride in mineral oil are added during 3/4 hour at 10° while stirring. After 11/2 hours, 78 g ethyl iodide are added during 1 hour while stirring. After 11/2 hours, some water is added dropwise and the mixture acidified with 10 percent hydrochloric acid. The mixture is extracted with diethyl ether, the extract dried and evaporated, to yield the ethyl α-(4-nitrophenyl)-butyrate.

reactant | ethyl 4-nitrophenyl-acetate | 104 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)OCC | C10H11NO4
reactant | sodium hydride | 19 g | [H-].[Na+]
reactant | ethyl iodide | 78 g | C(C)I | C2H5I
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | ethyl α-(4-nitrophenyl)-butyrate | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OCC)CC | C12H15NO4
